US06448242B1
Preparation of 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(dimethylamino)propane
A 37% aqueous solution of formaldehyde (0.75 ml; 10 mmol) and sodium cyanoborohydride (194 mg; 3.0 mmol) were added to a solution in acetonitrile (15 ml) of 2-amino-1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)propane (373 mg; 0.88 mmol) synthesized by the above process, and the mixture was stirred at room temperature for 30 minutes. Acetic acid was then added to the solution to adjust the pH to about 5, and the mixture was stirred further for 30 minutes at room temperature. The reaction mixture was brought to pH about 10 by addition of aqueous 2.5N sodium hydroxide and extracted with chloroform. The organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The resultant crude oil was purified by column chromatography on silica gel, thereby obtaining 388 mg (yield: 98%) of the title compound as a colorless oil.

reactant | formaldehyde | 10 mmol, 0.75 ml | C=O | CH2O
reactant | sodium cyanoborohydride | 3.0 mmol, 194 mg | C(#N)[BH3-].[Na+]
reactant | 2-amino-1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)propane | 0.88 mmol, 373 mg | NC(CC1CCN(CC1)C(=O)OC(C)(C)C)CC1CCN(CC1)C(=O)OC(C)(C)C | C23H43N3O4
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 1,3-bis(1-tert-butoxycarbonyl-4-piperidinyl)-2-(dimethylamino)propane | 388 mg, yield: 98% | C(C)(C)(C)OC(=O)N1CCC(CC1)CC(CC1CCN(CC1)C(=O)OC(C)(C)C)N(C)C | C25H47N3O4
